Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors / lisinopril / alendronate sodium
 
Attending: ___.
 
Chief Complaint:
Syncope, fall with possible headstrike
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo F from ___ with a past medical history significant for 
borderline diabetes (diet controlled), hypertension; urinary 
proteinuria and history of hepatic schistosomiasis status post 
treatment with praziquantel presenting for concern for altered 
mental status. 

Per Adult Day Care (Phone ___ ___ adult health care) 

Bus picked up patient who lives alone at apartment, sitting by 
herself for breakfast which is her normal. Nurse said patient 
wasn't feeling well, almost passed out sitting down vital signs 
87/40's hypotensive and confused at the time, + headstrike, + 
LOC. She did not take her meds this AM.. Found sitting on floor 
with cup of water spilled. Incontinence of urine at baseline per 
report. Usually A&O3x at baseline, able to perform ADLs. 

In the ED, initial VS were 97.6   57   128/66   20   99% RA 
Exam notable for A&O1X, TTP left posterior scalp and left 
shoulder, benign HEENT, Neuro and Abdominal exams

Labs showed UA, Chem7, CBC wnl, Trops & BNP negative
Imaging showed CT head/spine neg for acute intracranial 
process/cervical spine fracture, nl CXR, nl L shoulder x-ray
Received nothing in the ED.
Transfer VS were 98.9  HR 71  BP 144/66 RR 18  98 RA 

Decision was made to admit to medicine for further management of 
altered mental status.  
On arrival to the floor, patient walking around, in no acute 
distress, examined with ___ speaking Medicine resident (Dr. 
___. She reports discomfort over left rib area, that 
she has had intermittently for "months", she reports she felt it 
today. She says she was eating at the apartment with friends, 
when she got up, and then doesn't remember falling, remembers 
getting up and feeling fine. She denies any prodromal effects. 
She may have had a history of vertigo, said she has had ringing 
in the ear in the past, but currently denies vertiginous 
symptoms. 

She denies any confusion, but feels she has been more forgetful. 
She denies sick contacts, any cough, fevers/chills, abdominal 
pain, urinary pain, trouble breathing. 

She denies taking any medications regularly, only takes calcium. 
She does not take any cardiac medications, does not know of any 
cardiac history aside from having palpitations in past that 
resolved on its own. She reports occasional dizziness, denies 
currently, states sometimes she is dizzy which improved with 
sleeping. She has a diffuse posterior headache, likely from 
fall, she denies new vision changes (+blurry vision that she 
wears bifocals for).

REVIEW OF SYSTEMS:  
Denies fever, chills, night sweats, headache, rhinorrhea, 
congestion, sore throat, cough, shortness of breath,  abdominal 
pain, nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.  
All other 10-system review negative in detail.  

 
Past Medical History:
Schistosomiasis
Positive QuantiFERON testing -- declined INH and B6, does not 
have evidence of active TB on chest x-ray or by symptomatology 
as of ___
Cleared hepatitis B--Positive histoplasma serologies

 
Social History:
___
Family History:
Father had chronic cough, unknown history of TB.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
=============================
VS: 98.9F BP 180/83  HR 64  RR16  98RA  
112 lbs 
GENERAL: NAD, walking around, conversational in ___ 
HEENT: AT/NC, EOMI, no clear signs of trauma, PERRL, anicteric 
sclera, pink conjunctiva, MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD , full ROM 
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs 
CHEST: no tenderness over chest, no palpable thrills, no signs 
of trauma
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: distended, scar from prior C/S presnt, +BS, nontender 
in all quadrants, no rebound/guarding,
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: Alert and oriented x2 (off on year, initially said ___, 
then said ___, states she is in ___ CN II-XII 
intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
LABS: Reviewed in ___, See attached  

DISCHARGE PHYSICAL EXAM:
========================
VS: ___  BP 132-178/71-92  HR ___  RR16  98RA, weight 112 lbs 
Tele: alarms for irregular rhythm HR ___, appears to be 
atrial bigeminy
GENERAL: NAD, walking around, conversational in ___ 
HEENT: AT/NC, EOMI, no clear signs of trauma, possible slight 
swelling in posterior head, tender to palpation, no palpable 
fluctuance, PERRL, anicteric sclera, pink conjunctiva, MMM, good 
dentition  
NECK: nontender supple neck, no LAD, no JVD , full ROM 
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs 
CHEST: no tenderness over chest, no palpable thrills, no signs 
of trauma
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: distended, scar from prior C/S presnt, +BS, nontender 
in all quadrants
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: Alert and oriented x3  CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 
Pertinent Results:
ADMISSION and DISCHARGE LABS:
===============================
___ 11:30AM BLOOD WBC-6.8 RBC-3.80* Hgb-12.0 Hct-35.8 
MCV-94 MCH-31.6 MCHC-33.5 RDW-12.3 RDWSD-42.5 Plt ___
___ 05:56AM BLOOD WBC-8.5 RBC-4.34 Hgb-13.4 Hct-41.2 MCV-95 
MCH-30.9 MCHC-32.5 RDW-12.4 RDWSD-43.4 Plt ___
___ 11:30AM BLOOD Neuts-65.3 ___ Monos-6.8 Eos-2.5 
Baso-0.6 Im ___ AbsNeut-4.44 AbsLymp-1.64 AbsMono-0.46 
AbsEos-0.17 AbsBaso-0.04
___ 11:30AM BLOOD Glucose-148* UreaN-15 Creat-0.6 Na-139 
K-3.9 Cl-107 HCO3-27 AnGap-9
___ 05:56AM BLOOD Glucose-107* UreaN-15 Creat-0.9 Na-143 
K-3.4 Cl-109* HCO3-25 AnGap-12
___ 11:30AM BLOOD ___ PTT-28.4 ___
___ 11:30AM BLOOD cTropnT-<0.01 proBNP-142
___ 05:56AM BLOOD CK-MB-2 cTropnT-<0.01

IMAGING:
=========
___ CT head:
There is no evidence of acute hemorrhage, edema, mass effect, or 
loss of gray/ white matter differentiation.  Foci of low density 
in the supratentorial white matter are nonspecific but likely 
sequela of mild chronic small vessel ischemic disease in this 
age group.  Ventricles and sulci are mildly prominent due to 
age-related parenchymal volume loss. 
  
There is no evidence of fracture.  There is mild mucosal 
thickening in the maxillary sinuses, ethmoid air cells, and 
inferior frontal sinuses, and minimal mucosal thickening along 
the anterior wall of the right sphenoid sinus.  Mastoid air 
cells and middle ear cavities are well aerated.  The orbits are 
unremarkable. 
 
___ CT spine:   
1. No evidence for a fracture.  No acute subluxation. 
2. Multilevel degenerative disease. 
 
___ Glenohumeral Xray:   
No fracture or dislocation is detected involving the 
glenohumeral or AC joint. There is moderate acromioclavicular 
joint degenerative change. No suspicious lytic or sclerotic 
lesion is identified. No periarticular calcification or 
radio-opaque foreign body is seen. The partially visualized left 
lung is clear. 

___ CXR: Lung volumes are low.  The cardiomediastinal 
silhouette and pulmonary vasculature are unremarkable given low 
lung volumes.  There is bibasilar linear atelectasis.  An 
unchanged calcified granuloma is seen at the right apex. 
 
Brief Hospital Course:
___ with hx of osteoarthritis and HTN who had a syncopal episode 
upon standing after eating a meal, with loss of consciousness 
and question of headstrike. 

#Syncope: Patient was reportedly sitting and eating, when she 
lost consciousness and fell to the ground, reported headstrike, 
and then patient was able to stand up on own but was confused 
per nursing staff. Per report, patient had initial SBP in ___ 
after event, but was normotensive to hypertensive in the ED and 
during her hospital stay. Possible etiologies included reflex 
mediated (eating/post prandial, perhaps overflow incontinence in 
history) vs orthostasis (15mmHg drop in SBP upon standing, no HR 
increase, asymptomatic) vs cardiac etiology (reports a history 
of "palpitations"). Telemetry demonstrated mostly sinus rhythm 
and episodes of atrial bigeminy. The latter was not believed to 
be a contributor to her syncope. She had a non focal 
neurological exam with no focal source of infection - afebrile, 
bland UA, clear CXR, no leukocytosis. EKG was without ischemic 
changes, and she had negative troponin x2 and BNP wnl. She was 
discharged and recommended close PCP ___. 

#Fall: History was not entirely clear, but there was concern for 
headstrike especially given patient complaining of 
headache/scalp pain. Endorsed TTP of posterior scalp and left 
shoulder. CT head/C-spine negative for bleed, spinal fractures. 
L shoulder plain film with no evidence of fractures/dislocation.

#Hypertension: Patient reported to be initially hypotensive, but 
in the ED and throughout her stay she exhibited mostly 
hypertension with SBP up to 180s at times. She was started on 
Losartan 25 mg briefly (given report of cough to ACE-I), but was 
not discharged on it given orthostasis. 

#Chest Pain: Patient reported left sided pain, underneath her 
left rib area, no EKG changes, pain resolved with pain control 
and topical analgesic.

#Cleared hepatitis B--Positive histoplasma serologies. She needs 
f/u screening progress for HCC. 

TRANSITIONAL ISSUES:
- Patient needs screening for HCC.
- Please consider adding an anti-hypertensive medication.
- Can consider ___ of Hearts or Holter monitor if concern 
persists for an arrhythmia as the cause of her syncopal episode.

CODE: Full (confirmed)
EMERGENCY CONTACT HCP: ___, Dongchong, Daughter (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 1000 mg PO DAILY 

 
Discharge Medications:
1. Calcium Carbonate 1000 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Syncope

Secondary Diagnosis:
- Atrial Bigeminy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,
   You were admitted on ___ after a syncopal episode (loss 
of consciousness). We performed tests to ensure that you did not 
have an abnormal heart rhythm or other dangerous etiologies as 
the cause of this. We did not find anything concerning but 
recommend that you follow up closely with your primary care 
doctor nevertheless.

Sincerely,
Your ___ Team
 
Followup Instructions:
___